US06403280B1
8,9-di(tetrahydropyranyloxycarbonyl)tetracyclo[4.4.0.12.5.17.10]dodec-3-ene.
Among these norbornene derivatives (3), 5-t-butoxycarbonylbicyclo[2.2.1]hept-2-ene, 5,6-di(t-butoxy-carbonyl)bicyclo[2.2.1]hept-2-ene, 5,6-di(t-butoxycarbonyl-methoxycarbonyl)bicyclo[2.2.1]hept-2-ene, 8-t-butoxy-carbonyltetracyclo[4.4.0.12.5.17.10]dodec-3-ene, 8-methyl-8-t-butoxycarbonyltetracyclo[4.4.0.12.5.17.10]dodec-3-ene, 8-methyl-8-t-butoxycarbonylmethoxycarbonyltetracyclo[4.4.0.12.5.17.10]dodec-3-ene are preferred.

reactant | norbornene | C12C=CC(CC1)C2 | C7H10
reactant | 5-t-butoxycarbonylbicyclo[2.2.1]hept-2-ene | C(C)(C)(C)OC(=O)C1C2C=CC(C1)C2 | C12H18O2
reactant | 5,6-di(t-butoxy-carbonyl)bicyclo[2.2.1]hept-2-ene | C(C)(C)(C)OC(=O)C1C2C=CC(C1C(=O)OC(C)(C)C)C2 | C17H26O4
reactant | 5,6-di(t-butoxycarbonyl-methoxycarbonyl)bicyclo[2.2.1]hept-2-ene | C(C)(C)(C)OC(=O)COC(=O)C1C2C=CC(C1C(=O)OCC(=O)OC(C)(C)C)C2 | C21H30O8
reactant | 8-t-butoxy-carbonyltetracyclo[4.4.0.12.5.17.10]dodec-3-ene | C(C)(C)(C)OC1C2C3C4C=CC(C3C(C1=C=O)C2)C4 | C17H22O2
reactant | 8-methyl-8-t-butoxycarbonyltetracyclo[4.4.0.12.5.17.10]dodec-3-ene | CC1(C2C3C4C=CC(C3C(C1)C2)C4)C(=O)OC(C)(C)C | C18H26O2
reactant | 8-methyl-8-t-butoxycarbonylmethoxycarbonyltetracyclo[4.4.0.12.5.17.10]dodec-3-ene | CC1(C2C3C4C=CC(C3C(C1)C2)C4)C(=O)OCC(=O)OC(C)(C)C | C20H28O4
product | 8,9-di(tetrahydropyranyloxycarbonyl)tetracyclo[4.4.0.12.5.17.10]dodec-3-ene | O1C(CCCC1)OC(=O)C1C2C3C4C=CC(C3C(C1C(=O)OC1OCCCC1)C2)C4 | C24H32O6
